
* cell TOP
.SUBCKT TOP
* cell instance $1 r180 *1 2,2.6
X$1 6 1 A
* cell instance $2 r0 *1 2.2,1
X$2 6 5 A
* device instance $1 r0 *1 0.8,0.75 RPP1
R$1 2 1 0.555555555556 RPP1
.ENDS TOP

* cell A
* pin 
* pin 
.SUBCKT A 1 2
* device instance $1 r0 *1 -0.2,0.4 RPP1
R$1 1 2 1.25 RPP1
.ENDS A
